US06969711B2
To a solution of tert-butyl 4-(2-hydroxyethyl)-1-piperazinecarboxylate (230 mg, 1.00 mmol) in DMF (2 ml) was added sodium hydride (55%, 52 mg, 1.19 mmol) with ice-cooling and stirred at 75° C. for 30 minutes, and then added 1-benzyl-2-chlorobenzimidazole (243 mg, 1.00 mmol) and stirred at 75° C. for 24 hours. The reaction solution was concentrated in vacuo, and the resulting residue was dissolved in chloroform. The organic layer was washed with water and a saturated sodium chloride solution successively, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting residue was purified by a silica gel column chromatography (silica gel 25 g, developing solvent; hexane:ethyl acetate=5:1 1:1) to provide 369 mg (yield 85%) of tert-butyl [4-[2-(benzimidazol-2-yloxy)ethyl]piperazin-1-yl]carboxylate as colorless solid.

reactant | tert-butyl 4-(2-hydroxyethyl)-1-piperazinecarboxylate | 1.00 mmol, 230 mg | OCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O3
reactant | sodium hydride | 1.19 mmol, 52 mg | [H-].[Na+]
reactant | 1-benzyl-2-chlorobenzimidazole | 1.00 mmol, 243 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)Cl | C14H11ClN2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-butyl [4-[2-(benzimidazol-2-yloxy)ethyl]piperazin-1-yl]carboxylate | 369 mg, yield 85% | N1=C(NC2=C1C=CC=C2)OCCN2CCN(CC2)C(=O)OC(C)(C)C | C18H26N4O3
